US07829560B2
N-[4-({2-[(cyclopropylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide (Compound B384).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and cyclopropylmethylamine according to conditions described in general procedure C. Mp: 117-119° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.10-0.30 (m, 4 H), 0.90 (bs, 1 H), 1.58-1.60 (m, 6H), 3.00 (bs, 2 H), 3.27-3.28 (m, 4 H), 6.29 (bs, 1 H), 6.96 (d, 1 H), 7.15 (d, 1 H), 7.20 (s, 1 H), 7.38 (d, J=8.0 Hz, 1 H), 7.45 (s, 1 H), 7.54-7.58 (m, 3 H), 7.80 (d, 1 H), 7.96 (d, 1 H), 8.20 (s, 1H), 10.41 (s, 1H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | N-[4-({2-[(cyclopropylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-piperidin-1-ylbenzamide | C1(CC1)CNC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C30H30FN5O2
